US06083959
To a stirred solution of 2,6-dichloro-1-hydroxymethyl-3-[N-methyl-N-[4-(dimethylcarbamoyl)cinnamoylglycyl]amino]benzene (300 mg) and triethylamine (78.5 mg) in dichloromethane (3 ml) was dropwise added mesyl chloride (81.4 mg) under ice-cooling, and the mixture was stirred for 10 minutes at the same temperature and for 30 minutes at ambient temperature. Chloroform was added thereto, and the mixture was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo to give 2,6-dichloro-1-methanesulfonyloxymethyl-3-[N-methyl-N-[4-(dimethylcarbamoyl)cinnamoylglycyl]amino]benzene (330 mg) as colorless amorphous.

reactant | 2,6-dichloro-1-hydroxymethyl-3-[N-methyl-N-[4-(dimethylcarbamoyl)cinnamoylglycyl]amino]benzene | 300 mg | ClC1=C(C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(N(C)C)=O)=O)=O)C)Cl)CO | C22H23Cl2N3O4
reactant | triethylamine | 78.5 mg | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 81.4 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2,6-dichloro-1-methanesulfonyloxymethyl-3-[N-methyl-N-[4-(dimethylcarbamoyl)cinnamoylglycyl]amino]benzene | 330 mg | ClC1=C(C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(N(C)C)=O)=O)=O)C)Cl)COS(=O)(=O)C | C23H25Cl2N3O6S
